*****************************************************************
* NXP PSMN040-100MSE
*
* Polarity N-Channel
* Ratings 100V/3.660000E-002OHMS/30.3306161351452A
*
* Date Created Fri Mar 01 05:52:00 2013
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN040-100MSE DRAIN GATE SOURCE

LD DRAIN 5 1e-11
RLD2 DRAIN 5 0.0251327412287184
RLD1 5 4 3e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 2.3e-10
RLS2 SOURCE 8 0.578053048260522
RLS1 8 7 0.00022

RDS 7 4 100000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.0183023911165134 TC=0.0137192514496374,1.13499070090126E-05
RBD 9 4 0.00231143486207969 TC=0.0137192514496374,1.13499070090126E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 200000000
CGS 2 6 1.2931989585291e-09
RG 1 2 1.62663376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ 0	1097.88354
+ 0.1	645.32064
+ 0.2	644.54464
+ 0.5	517.55752
+ 1	422.52456
+ 2	318.47092
+ 3	265.81204
+ 4	234.90936
+ 5	212.85536
+ 6	196.53688
+ 8	173.70144
+ 10	157.99028
+ 12	146.14704
+ 15	132.82376
+ 16	129.00564
+ 20	117.32944
+ 25	106.47656
+ 30	98.26859
+ 50	78.32672



.MODEL MINT NMOS(Vto=3.89287981000289 Kp=1.669195e+001 Nfs=950000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=110 Ibv=2.500000E-004 Rs=1E-6 Is=4.3795678734881e-13
+ N=1 M=0.66 VJ=0.5 Fc=0.5 Cjo=4.4646172e-10 Tt=3.0696e-08)

.ENDS

